US08791123B2
(R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(3-methylpyridin-2-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a suspension of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation C, 25.0 mg, 0.072 mmol) in CCl4 (1.0 mL) was added thionyl chloride (0.10 mL) and the mixture heated at reflux for 4 hours. The mixture was cooled to ambient temperature and was concentrated to a brittle foam. The foam was dissolved in pyridine (2 mL), 2-amino-3-methyl-pyridine (9.3 mg, 0.086 mmol) was added and the mixture was heated at 90° C. for 20 hours. The reaction was cooled to ambient temperature and the pyridine evaporated. The residue was partitioned into 1M NaOH and EtOAc, mixed and the EtOAc layer removed. The aqueous layer was extracted with EtOAc and combined EtOAc fractions were washed with H2O, saturated NaCl and dried over MgSO4. The solution was filtered and concentrated, and the resulting solid was washed with dry Et2O to afford the title compound as a white solid (7 mg, 29%). MS (apci) m/z=435.1 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.072 mmol, 25.0 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H14F2N4O2
reactant | thionyl chloride | 0.10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-3-methyl-pyridine | 0.086 mmol, 9.3 mg | NC1=NC=CC=C1C | C6H8N2
solvent | CCl4 | 1.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(3-methylpyridin-2-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 7 mg, 29% | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC2=NC=CC=C2C | C23H20F2N6O
